datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cn1cccc1-c1ccc[n:10]c1.Oc1cccc2c([NH2+:21][H:20])cccc12>>Cn1cccc1-c1ccc[n+:10]([H:20])c1.Oc1cccc2c([NH2:21])cccc12 10=20;20,21=21",
"CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O:21][H:20].Cc1ccc(C)c(C(=O)[O-:10])c1>>CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O-:21].Cc1ccc(C)c(C(=O)[O:10][H:20])c1 10=20;20,21=21",
"CCCCCC(C)(C)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCC(C)(C)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1[C@H]([NH3+])[C@H]1[NH2:10].O=[N+]([O-])c1ccc(C2SCC[NH+:21]2[H:20])cc1>>CC1[C@H]([NH3+])[C@H]1[NH2+:10][H:20].O=[N+]([O-])c1ccc(C2SCC[NH:21]2)cc1 10=20;20,21=21",
"Cc1ccc(C[NH3+])cc1[NH2:10].O=C(c1cc2ccccc2s1)[O:21][H:20]>>Cc1ccc(C[NH3+])cc1[NH2+:10][H:20].O=C(c1cc2ccccc2s1)[O-:21] 10=20;20,21=21",
"CC[N+:21](CC)(CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12)[H:20].CC[NH+](CC)CCC[N:10](CC)CC>>CC[N:21](CC)CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12.CC[NH+](CC)CCC[N+:10](CC)(CC)[H:20] 10=20;20,21=21",
"CC(=O)c1ccccc1[O-:10].Nc1ccc2cc[n+:21]([H:20])cc2c1>>CC(=O)c1ccccc1[O:10][H:20].Nc1ccc2cc[n:21]cc2c1 10=20;20,21=21",
"CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O:10].C[n+]1ccncc1[O:21][H:20]>>CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O+:10][H:20].C[n+]1ccncc1[O-:21] 10=20;20,21=21",
"C[NH+](C)CCCNc1cc[n+:21]([H:20])c2c([N+](=O)[O-])cccc12.O=C([O-])C1(C(=O)[O-:10])CCCC1>>C[NH+](C)CCCNc1cc[n:21]c2c([N+](=O)[O-])cccc12.O=C([O-])C1(C(=O)[O:10][H:20])CCCC1 10=20;20,21=21",
"NC(=NO)C(c1ccccc1)[NH2+:21][H:20].c1coc(-c2ccc[n:10]c2)c1>>NC(=NO)C(c1ccccc1)[NH2:21].c1coc(-c2ccc[n+:10]([H:20])c2)c1 10=20;20,21=21",
"CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1cccc([N-:10]S(=O)(=O)c2ccc(N)cc2)c1.CN(CCC[NH+](C)C)C(=O)/C=N/[O:21][H:20]>>CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1cccc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])c1.CN(CCC[NH+](C)C)C(=O)/C=N/[O-:21] 10=20;20,21=21",
"CCC[N:10](N)CCC.c1cc([O:21][H:20])cn[nH+]1>>CCC[N+:10](N)(CCC)[H:20].c1cc([O-:21])cn[nH+]1 10=20;20,21=21",
"Cc1ccc2c(c1[O-])-c1c-2ccc(C)c1[O-:10].[NH3+][C@@H](Cc1c[nH]c[nH+]1)C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>Cc1ccc2c(c1[O-])-c1c-2ccc(C)c1[O:10][H:20].[NH3+][C@@H](Cc1c[nH]c[nH+]1)C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"C1CCC2C(C1)CCC[NH:10]2.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CCC2C(C1)CCC[NH+:10]2[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC[NH:10]c1ccc(C)cc1.c1cnc2ccc([S:21][H:20])cc2c1>>CC[NH+:10](c1ccc(C)cc1)[H:20].c1cnc2ccc([S-:21])cc2c1 10=20;20,21=21",
"Cc1ccc(-c2oc(-c3ccc(Cl)cc3)c[n:10]2)cc1.Nc1nc2ccccc2[n+:21]([H:20])c1N>>Cc1ccc(-c2oc(-c3ccc(Cl)cc3)c[n+:10]2[H:20])cc1.Nc1nc2ccccc2[n:21]c1N 10=20;20,21=21",
"C[N+]1(CCCCCC(=O)[O-:10])CCCCC1.O=C(c1ccccc1)c1ccccc1[O:21][H:20]>>C[N+]1(CCCCCC(=O)[O:10][H:20])CCCCC1.O=C(c1ccccc1)c1ccccc1[O-:21] 10=20;20,21=21",
"COc1ccc(N)cc1C[NH2+:21][H:20].C[NH+](c1ccccc1)C([O-])[O-:10]>>COc1ccc(N)cc1C[NH2:21].C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"CC(CCCc1ccc(O)cc1)[NH2:10].CN1CCCCCC[N+:21](C)([H:20])CCCCCC1>>CC(CCCc1ccc(O)cc1)[NH2+:10][H:20].CN1CCCCCC[N:21](C)CCCCCC1 10=20;20,21=21",
"CC1=CC(C)=Nc2ccc(C)cc2[N-:10]1.CCNc1nc(N)[n+:21]([H:20])c(N)n1>>CC1=CC(C)=Nc2ccc(C)cc2[N:10]1[H:20].CCNc1nc(N)[n:21]c(N)n1 10=20;20,21=21",
"CC(C)c1csc(C(=O)[O-:10])c1.Cc1cc(Br)cc(Br)c1[O:21][H:20]>>CC(C)c1csc(C(=O)[O:10][H:20])c1.Cc1cc(Br)cc(Br)c1[O-:21] 10=20;20,21=21",
"CCC[N+:21](CC)(C(CC)C(=O)Nc1c(C)cccc1C)[H:20].CCSC(C)([OH2+])[O-:10]>>CCC[N:21](CC)C(CC)C(=O)Nc1c(C)cccc1C.CCSC(C)([OH2+])[O:10][H:20] 10=20;20,21=21",
"C[n+]1ccc2cc([O-:10])ccc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[n+]1ccc2cc([O:10][H:20])ccc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)[NH+:21](c1cc(OC)cc2ccc[nH+]c12)[H:20].[NH3+]CCc1ccccc1[O-:10]>>CC[NH+](CC)CCCC(C)[NH:21]c1cc(OC)cc2ccc[nH+]c12.[NH3+]CCc1ccccc1[O:10][H:20] 10=20;20,21=21",
"C1C[N:10](CC2CO2)CCO1.O=C([C@@H]1O[C@H](Oc2ccc(Br)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>C1C[N+:10](CC2CO2)([H:20])CCO1.O=C([C@@H]1O[C@H](Oc2ccc(Br)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"C(=C/c1cc[n+:21]([H:20])cc1)\c1ccncc1.O=C(O)C[NH+](CC(=O)O)Cc1cc(Cl)cc(C[NH+](CC(=O)O)CC(=O)[O-:10])c1O>>C(=C/c1cc[n:21]cc1)\c1ccncc1.O=C(O)C[NH+](CC(=O)O)Cc1cc(Cl)cc(C[NH+](CC(=O)O)CC(=O)[O:10][H:20])c1O 10=20;20,21=21",
"CC(=O)OCC1CC2CC[N:10]1CC2.CC(C)(CN)[S:21][H:20]>>CC(=O)OCC1CC2CC[N+:10]1([H:20])CC2.CC(C)(CN)[S-:21] 10=20;20,21=21",
"CN(C(=O)c1ccc([N+](=O)[O-])cc1)[O:21][H:20].O=C([C@]12C[NH2+]CC[C@H]1O2)[O-:10]>>CN(C(=O)c1ccc([N+](=O)[O-])cc1)[O-:21].O=C([C@]12C[NH2+]CC[C@H]1O2)[O:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCNCC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCNCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCCCCCCCCCCC.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCCCCCCC[NH+:10](CCCCCCCCCCCC)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
